US07196111B2
A mixture of 1.1 g (4.4 mmol) of 2-cyclohexyl-3-furan-2-yl-3-oxo-propionic acid methyl ester, 0.592 g (4.2 mmol) of 5-amino-1H-pyrazole-3-carboxylic acid methyl ester, 76 mg (0.4 mmol, 10 mol %) of p-toluenesulfonic acid monohydrate (PTSA), and 50 mL of chlorobenzene was heated at 120° C. overnight. The reaction mixture was then concentrated to a residue which was chromatographed on silica gel (7% methanol in dichloromethane) to afford 0.46 g (32% yield) of desired 6-cyclohexyl-5-furan-2-yl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester as indicated by 1H NMR; LC-MS—calcd for C18H19N3O4 [M++H]+: 342.14, found: 342.3.

reactant | 2-cyclohexyl-3-furan-2-yl-3-oxo-propionic acid methyl ester | 4.4 mmol, 1.1 g | COC(C(C(=O)C=1OC=CC1)C1CCCCC1)=O | C14H18O4
reactant | 5-amino-1H-pyrazole-3-carboxylic acid methyl ester | 4.2 mmol, 0.592 g | COC(=O)C1=NNC(=C1)N | C5H7N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.4 mmol, 76 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 6-cyclohexyl-5-furan-2-yl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 0.46 g, 32% yield | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C=2OC=CC2)=C1 | C18H19N3O4
